US06576643B2
b) Ethyl (±)-10,11-dihydro-3-methoxy-2-methyl-5H-dibenzo[a,d]cycloheptene-10-acetate
A mixture of ethyl (±)-10,11-dihydro-2-formyl-3-methoxy-5H-dibenzo[a,d]cycloheptene-10-acetate (220 mg, 0.65 mmol), 10% Pd/C (90 mg), glacial HOAc (15 mL), and conc HCl (2 mL) was shaken at RT under hydrogen (60 psi). After 20 hr, the mixture was filtered through celite®, and the filtrate was concentrated to afford the title compound (200 mg, 95%) as a colorless oil: MS (ES) m/e 325.2 (M+H)+.

reactant | ethyl (±)-10,11-dihydro-2-formyl-3-methoxy-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.65 mmol, 220 mg | C(=O)C1=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C=C1OC | C21H22O4
reactant | HCl | 2 mL | Cl | ClH
catalyst | Pd/C | 90 mg | [Pd] | Pd
solvent | HOAc | 15 mL | CC(=O)O | C2H4O2
product | Ethyl (±)-10,11-dihydro-3-methoxy-2-methyl-5H-dibenzo[a,d]cycloheptene-10-acetate | 200 mg, 95% | COC=1C(=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1)C | C21H24O3
